US04739050
3,4-Dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine (compound No. 8)
2-Chloro-3,4-dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (12.3 g, compound No. 3) is added to a mixture of 30% aqueous methyl mercaptan solution (26 ml) and tetrahydrofuran (50 ml). The mixture is stirred for 1.5 hours at room temperature and concentrated in vacuo. The separated crystals are collected by filtration to give 10.0 g (78.3%) of the titled compound.

reactant | 2-Chloro-3,4-dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | ClC1(SC2=C(N(C1=O)C)C=CC=C2)C2=C(C=CC(=C2)OC)O | C16H14ClNO3S
reactant | methyl mercaptan | 26 ml | CS | CH4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine | 10.0 g, 78.3% | OC1=C(C=C(C=C1)OC)C1(SC2=C(N(C1=O)C)C=CC=C2)SC | C17H17NO3S2
